US07795262B2
Step 2. Preparation of tert-butyl 5,6-dihydroimidazo[1,2-a]pyrazine-7(8H)-carboxylate
5,6,7,8-Tetrahydroimidazo[1,2-a]pyrazine (1 g, 6.2 mmol) is dissolved in DCM (10 mL). To this solution is added TEA (0.75 g, 7.42 mmol) and di-tert-butyl dicarbonate (1.63 g, 7.4 mmol). The reaction mixture is stirred overnight at rt The solvent is evaporated and the residue is purified by column with 5% MeOH in DCM to give the title compound. 1H NMR (CDCl3) δ 7.01 (d, 1H), 6.83 (d, 1H), 4.67 (s, 2H), 3.97 (t, 2H), 3.82 (t, 2H), 1.45 (s, 9H).

reactant | 5,6,7,8-Tetrahydroimidazo[1,2-a]pyrazine | 6.2 mmol, 1 g | N=1C=CN2C1CNCC2 | C6H9N3
reactant | di-tert-butyl dicarbonate | 7.4 mmol, 1.63 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 5,6-dihydroimidazo[1,2-a]pyrazine-7(8H)-carboxylate | N=1C=CN2C1CN(CC2)C(=O)OC(C)(C)C | C11H17N3O2
